US05882393
Synthesis of 3-Imidazol-1-yl-propionic acid 2-hydroxypropyl ester
Under a nitrogen atmosphere, in a three-necked flask provided with a mechanical stirrer, at room temperature, 20.43 g imidazole (0.30 mol) are suspended in 39.06 g 2-hydroxypropyl acrylate (0.30 mol). The contents of the flask are heated to 40° C., until an exothermic reaction occurs, whereby the temperature rises to about 110° C. within a few minutes. The reaction mixture is cooled to 80° C. and then stirred at this temperature for 3 h. The clear yellow oil (amine value 271 mgKOH/g; color 4 (Gardner)) is quantitatively filtered off and stored dry.

reactant | imidazole | 0.30 mol, 20.43 g | N1C=NC=C1 | C3H4N2
reactant | 2-hydroxypropyl acrylate | 0.30 mol, 39.06 g | C(C=C)(=O)OCC(C)O | C6H10O3
product | 3-Imidazol-1-yl-propionic acid 2-hydroxypropyl ester | OC(COC(CCN1C=NC=C1)=O)C | C9H14N2O3
